US07501210B2
A 1 l three-neck flask was charged with 16.6 g (0.07 mol) of diethyl 5-hydroxyisophthalate, 26.1 g (0.07 mol) of 4-(6-bromohexyloxy)-4′-methylazobenzene and 15.1 g (0.11 mol) of potassium carbonate anhydride. To the mixture was added 300 ml of acetone and the system was refluxed under heating to react for 24 hours. After the reaction was completed, the system was poured into 1500 ml of cool water to obtain diethyl {6-[4-(4-methylphenylazo)phenoxy]hexyloxy}isophthalate, which was then separated by filtration and dried under reduced pressure (yield: 83% (35.1 g)). The product was recrystallized from acetone twice to obtain 30.1 g (80.1%) of a target product, diethyl (5-{6-[4-(4-methylphenylazo)phenoxy]hexyloxy}isophthalate. It was found from an analysis using high performance liquid chromatography that the purity of the product was 98.5% or more. The resulting compound was subjected to measurements of infrared absorption spectrum (IR) and nuclear magnetic resonance (NMR). The results are shown in the following.

reactant | diethyl 5-hydroxyisophthalate | 0.07 mol, 16.6 g | OC=1C=C(C=C(C(=O)OCC)C1)C(=O)OCC | C12H14O5
reactant | 4-(6-bromohexyloxy)-4′-methylazobenzene | 0.07 mol, 26.1 g | BrCCCCCCOC1=CC=C(C=C1)N=NC1=CC=C(C=C1)C | C19H23BrN2O
reactant | acetone | 300 ml | CC(=O)C | C3H6O
solvent | water | 1500 ml | O | H2O
product | diethyl {6-[4-(4-methylphenylazo)phenoxy]hexyloxy}isophthalate | yield: 83% | CC1=CC=C(C=C1)N=NC1=CC=C(OCCCCCCOC2=C(C(=O)OCC)C=CC=C2C(=O)OCC)C=C1 | C31H36N2O6
